### ISSUE TITLE
feat(mv-factor): complete verified multivariate integer factorization and its Mathlib API

### ISSUE THREAD

**Issue by kim-em** [kim-em/hex-dev#10082]
library: HexMvFactor

## Current state

The executable integer multivariate factorization stack exists, but the verified, Mathlib-facing library specified by the project is incomplete. This issue tracks completion of that existing scope, not a new factoring algorithm. Keep it open until the acceptance criteria below are met; coherent implementation PRs can land incrementally.

Source audit at main commit `8dd0f8e155ebd9c49cb08728dde3051fb8fec4a5`:

- `HexMvFactor` implements structural reductions, squarefree/content recursion, evaluation-point and leading-coefficient search, EEZ lifting/recombination, bounded partial results, Kronecker fallback, and `factor?` / `complete?`. The implementation landed in #9442; Kronecker replay was strengthened in #9567.
- Conformance drivers, committed fixtures, SymPy oracles, and `HexMvFactorizationTests` exist. All three computational libraries have `done_through: 3` in `libraries.yml`; that records conformance completion, not proof completion.
- There are **36 literal `sorry` occurrences** in their Lean sources: **18 in HexMvGcd, 17 in HexMvHensel, 1 in HexMvFactor**. These are not confined to auxiliary results. `HexMvFactor/Irred.lean:85` leaves `checkIrred_sound` unproved, and `checkComplete_sound` depends on it. GCD gaps include certificate soundness, Gauss/content/PRS results and eight squarefree contracts. Hensel gaps include shift identities, univariate and multivariate correction, lifting, uniqueness/completeness, and irreducibility transfer through specialization.
- `checkComplete` alone does **not** establish irreducibility. Its soundness theorem correctly requires the univariate `obligations` separately. The producer-provenance theorem discharging those obligations is specified but absent.
- `HexMvGcdMathlib`, `HexMvHenselMathlib`, and `HexMvFactorMathlib` are absent from source and the library registry. Consequently the specified end-to-end Mathlib theorem, uniqueness/decidability API, and multivariate tactic extensions are missing, despite README text describing them.
- `bench/HexMvHensel/` and `bench/HexMvFactor/` are absent. GCD benchmarks and a performance report exist, but its phase counter is still 3. None of the three libraries is in `scripts/release/released.yml`.

The previous factorization issue #9326 was SPEC-only and is closed. No open issue found covers completion of this stack. #9809 covers the existing prime-field performance prerequisite; #10075 / #10079 cover a polynomial-degree API refactor touching this code and should be coordinated with, not duplicated. This is a source/registry audit, not a fresh claim that builds, conformance, or performance checks pass.

## Deliverables

- [ ] Close the existing GCD and squarefree proof gaps needed by the integer pipeline, including the certificate/Gauss/PRS/content contracts. Complete characteristic-zero squarefree correctness; positive-characteristic decomposition is separate future work.
- [ ] Close Hensel's shift, correction, lift, uniqueness/completeness, and specialization-irreducibility proofs under the SPEC's actual input and coefficient-bound hypotheses.
- [ ] Prove `checkIrred_sound` for all four certificate constructors. Establish the complete factorization theorem with product, multiplicities, irreducibility and pairwise nonassociation, retaining explicit obligations for caller-assembled certificates and discharging them from producer provenance for successful `completeWith` results. Budget exhaustion must remain an explicit partial/failure result.
- [ ] Implement and register the three specified Mathlib companions in dependency order. Supply correspondence, obligation discharge, `factorization_spec_of_complete`, uniqueness, and the specified total irreducibility decision, including zero, units and constant primes. Audit that headline theorem axiom dependencies contain no `sorryAx`.
- [ ] Implement the specified multivariate `factor_poly` / `irreducibility` extensions, including direct `MvPoly`, Mathlib `MvPolynomial`, and the expression-reification/`FactoredExpr` surface. Ordinary users must receive kernel-checked mathematical claims, with search outside kernel replay.
- [ ] Complete the missing Hensel/factorization benchmarks and replay probes. Exercise the SPEC's nine factorization families and the FLINT dense-EEZ comparator contract; preserve its distinction between gating and informational comparisons. Reuse and audit GCD's existing evidence. Respect phase prerequisites: currently HexPolyFp is at 3 (#9809), followed by GCD, Hensel, and factorization.
- [ ] Reconcile manuals/READMEs with the delivered APIs, complete phase checks and proof polishing, and prepare release-manifest integration once the stack meets release readiness. Advance phase counters only with the corresponding evidence. Actual outward synchronization follows the normal dry-run and baseline-guard workflow.

Execute in reviewable proof/API/benchmark slices; this tracker is the completion checklist, not a requirement for one enormous PR. Before implementing any proposed theorem, check its premise against the executable and SPEC. If a contract is unsound, report concrete evidence here and correct the contract through the project's SPEC process; do not silently weaken it or add axioms.

## Library placement

- Computational algorithms and their correctness stay in `HexMvGcd/`, `HexMvHensel/`, and `HexMvFactor/`; these remain Mathlib-free.
- Correspondence, UFD-facing results and tactic proofs belong in the respective `*Mathlib` companions, registered with their actual dependency closure.
- Tests, benches and manual examples extend the existing conformance/bench/manual projects. Release metadata belongs in the existing release manifest and managed workflow definitions.

Governing contract, `HexMvFactor/SPEC/hex-mv-factor.md`, “The Mathlib layer”:

> `hex-mv-factor-mathlib` does four things the Mathlib-free layer cannot: it discharges the univariate obligations, it identifies the checked statements with Mathlib's, it proves uniqueness, and it provides the proof-producing multivariate tactic surface.

No new algorithm family or trusted boundary is required for this completion scope.

## Context

- `HexMvFactor/SPEC/hex-mv-factor.md`: checker/obligation boundary, pipeline, Mathlib layer, tactics, milestones and benchmarks.
- `HexMvHensel/SPEC/hex-mv-hensel.md`: input conditions, correction equations, coefficient bounds, completeness and companion.
- `HexMvGcd/SPEC/hex-mv-gcd.md`: certificate soundness, Gauss/content, characteristic-zero squarefree decomposition and companion.
- `HexMvPoly/SPEC/hex-mv-poly.md` and `HexMvPolyMathlib/SPEC/hex-mv-poly-mathlib.md`.
- `HexBerlekampZassenhausMathlib/SPEC/hex-berlekamp-zassenhaus-mathlib.md`: univariate irreducibility theorem and tactic infrastructure.
- `reports/hex-mv-gcd-performance.md`; prior GCD benchmark audit #9812.
- `SPEC/design-principles.md`, `SPEC/testing.md`, `SPEC/benchmarking.md`, `SPEC/CI.md`, `PLAN/Conventions.md`, `PLAN/Phase4.md` through `PLAN/Phase7.md`, and `PLAN/Releases.md`.

## Verification

- `lake build HexMvGcd HexMvHensel HexMvFactor HexMvFactorizationTests`, plus all newly registered companion and tactic test targets; finish with the whole-graph build.
- Run existing conformance/oracle checks and extend them for new public surfaces. Include zero, constants, content, repeated factors, unlucky points, nonconstant leading coefficients, Kronecker-only certificates, budget failures, and corrupted certificates. In particular, a caller-assembled product decomposition must never certify a reducible factor merely because product replay succeeds.
- Test producer obligation discharge and both positive and negative irreducibility results; inspect headline theorem dependencies, beyond counting local `sorry`s.
- Run benchmark verification and collect the required performance evidence on the prescribed hardware. Extend existing CI scripts/jobs; no new matrix or job fan-out.
- Build `HexManual`; run `scripts/check_dag.py`, applicable phase/release checks, and `git diff --check`.

## Out of scope

Positive-characteristic multivariate squarefree decomposition, factorization over new coefficient domains, sparse Hensel/Zippel routes, Gröbner bases, and general ideal decomposition. The existing integer EEZ/Kronecker contract is the target.

**Comment by kim-em** [comment]
Claimed on branch `issue-10082`. I am implementing a first proof slice: the existing `Hex.MvPoly.radical_dvd` contract, following the executable exact quotient and restoring scalar content and the normalization unit. This leaves the tracker open; it does not claim squarefree correctness or the remaining GCD/Hensel/Mathlib obligations are complete.

**Comment by kim-em** [comment]
PR #10086 implements radical_dvd with the original contract, adds integer/rational radical regressions and an axiom-dependency guard, and brings HexMvFactorizationTests into the existing CI job (including its missing UniTests import). Local verification passed: whole graph plus HexManual, the full factorization test stack, all three conformance modules, exact fixture regeneration and 86 SymPy oracle cases, and all 19 GCD benchmark smoke checks. The proof still inherits sorryAx from unfinished GCD checker/producer contracts; this is explicit in the guarded audit. The tracker remains open for the rest of the checklist, with no phase counters advanced.

**Comment by kim-em** [comment]
Proof blocker: `checkCoprime_sound` is false for the current public certificate type.

I checked this on `main` at `ab2a92e38a2879bcff21e75acf3b806662796283`. The kernel proves both:

- `checkCoprime (2*x + 2) (2*x + 4) forged = true`, using the ordinary lawful `GcdOps Int` instance at the outer checker;
- `¬ CoprimeCofactors (2*x + 2) (2*x + 4)`, since the nonunit constant `2` divides both.

Both proofs have exactly `[propext, Classical.choice, Quot.sound]` as their axiom dependencies: no `sorryAx`, no added axiom, and no `native_decide`.

The hole is `CoprimeCert.ratLiftCore` in `HexMvGcd/Cert.lean:100`: it captures a source coefficient type and its `GcdOps S`, without `LawfulGcdOps S`. `checkRatLiftCoreUsing` then uses those captured operations for `scalarContent` and the embedded `noLiftOps` replay. The target's lawful operations do not constrain the stored source operations, even when both types are `Int`.

The forged source operations return `1` for every scalar gcd and `true` for every scalar unit test. Thus both nonprimitive integer models appear primitive. The embedded `splitBezout` identity is valid (`-(2*x+2)+(2*x+4)=2`), its content folds really reconstruct their coefficients, but the residual content `2` is falsely accepted as a unit. The identity embedding and all four scale/inverse values equal to `1` satisfy the other replay checks.

This is a caller-assembled certificate counterexample; it does not claim the ordinary producer emits these certificates. Nevertheless it refutes the unrestricted checker-soundness contract and therefore blocks proving that contract as written.

The SPEC describes the canonical `Int → Rat` lift (the paragraph beginning “`ratLift` checks”); the public generic core admits more data than that boundary. The correction should reconcile the certificate type with that SPEC: restrict/seal the lift to the intended coefficient models and canonical lawful operations, or specify and justify the additional source-law and coprimality-transport requirements. Merely assuming the outer target operations are lawful is insufficient. No theorem has been weakened and no production source has been changed.

Per the repository directive-premise rule, I am stopping this proof attempt and leaving the tracker open and claimable for the contract correction. No sub-decomposition issue is needed.

Reproducer: save as `HexMvGcd/CertCounterexample.lean`, then run `lake build +HexMvGcd.CertCounterexample`. This completed successfully (223 jobs); only existing imported `sorry` declarations warned.

<details><summary>Complete kernel-checked reproducer</summary>

```lean
/-
Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Kim Morrison
-/

module

public import HexMvGcd.Cert
import all HexMvGcd.Cert
import all HexMvGcd.Normalize
import all HexMvGcd.View
import all HexMvPoly.Recursive
import all HexMvPoly.Basic
import all HexMvPoly.Ring
import all HexPoly.Dense
import all HexPoly.Operations

public section

namespace Hex.MvPoly.CertCounterexample

open Hex

abbrev P := MvPoly 1 Int Mono.lex

def left : P := C 2 * X 0 + C 2
def right : P := C 2 * X 0 + C 4

-- These operations are certificate data, not the target's lawful Int instance.
@[instance_reducible] def badOps : GcdOps Int where
  gcd := fun _ _ => 1
  exactDiv := Int.ediv
  isUnit := fun _ => true
  normUnit := fun _ => 1

def leftContent : ContentCert 0 Int Mono.lex :=
  .ofSteps (C 2) [.mk (C 2) 0 1 .unit, .mk (C 2) 1 1 .unit]

def rightContent : ContentCert 0 Int Mono.lex :=
  .ofSteps (C 2) [.mk (C 2) 0 (C 2) .unit, .mk (C 2) 1 1 .unit]

def sourceCert : CoprimeCert 1 Int Mono.lex :=
  .splitBezout 0 Mono.lex (C (-1)) 1 (C 2) leftContent rightContent .unit

def forged : CoprimeCert 1 Int Mono.lex := by
  letI : GcdOps Int := badOps
  exact .ratLiftCore (S := Int) ⟨id⟩ rfl rfl (fun _ _ => rfl)
    (fun _ _ => rfl) (fun h => h) 1 1 1 1 left right sourceCert

theorem view_left : (toUnivariate 0 Mono.lex left).toArray.toList = [C 2, C 2] := by
  decide +kernel

theorem view_right : (toUnivariate 0 Mono.lex right).toArray.toList = [C 4, C 2] := by
  decide +kernel

theorem accepted : checkCoprime left right forged = true := by
  simp only [checkCoprime, succCheckCoprime, forged,
    checkRatLiftCoreUsing, succCheckNoLift, sourceCert]
  simp only [Nat.Internal.elimOffset, Bool.and_eq_true]
  repeat' constructor
  all_goals first | decide +kernel | skip
  all_goals simp only [checkContentUsing, leftContent, rightContent,
    ContentCert.ofSteps, ContentCert.steps, ContentCert.value,
    GcdCerts.ofList, GcdCerts.toList, GcdCert.gcd, GcdCert.cofL, GcdCert.cofR,
    checkContentSteps,
    checkGcdUsing, baseCheckNoLift, view_left, view_right]
  all_goals simp only [Bool.and_eq_true]
  all_goals repeat' constructor
  all_goals first | decide +kernel | skip
  all_goals simp only [polyNormalize, polyNormUnit]
  all_goals rw [leadingTerm_C (by decide : (2 : Int) ≠ 0)]
  all_goals decide +kernel

theorem not_coprime : ¬ CoprimeCofactors left right := by
  intro h
  have hl : (C 2 : P) ∣ left := ⟨X 0 + 1, by decide +kernel⟩
  have hr : (C 2 : P) ∣ right := ⟨X 0 + C 2, by decide +kernel⟩
  have hu := (polyIsUnit_iff (C 2 : P)).mpr (h (C 2) hl hr)
  have hn : polyIsUnit (C 2 : P) = false := by decide +kernel
  rw [hn] at hu
  contradiction

#print axioms accepted
#print axioms not_coprime

end Hex.MvPoly.CertCounterexample

```
</details>

**Comment by kim-em** [comment]
Implementing the authorized certificate-boundary repair: separate ordinary certificates from canonical integer-to-rational lift payloads, remove caller-selected source arithmetic, tie coefficient-ring operations to the certificate type, and add regressions for the confirmed forgery. The public soundness obligation remains for every accepted certificate.

**Comment by kim-em** [comment]
Merged the certificate-boundary repair in #10091 (`af7b4d49f661a23debf82960bfff3c78435ff135`). Rational lifts now carry canonical integer models and ordinary integer evidence; recursive certificates fix the ambient ring, closing both the reported `ratLiftCore` hole and the analogous operation-dictionary mismatch in `split`. The SPECs describe the corrected contract and replay closure.

Kernel regressions reject the reported source certificate and malicious/corrupt lift payloads, preserve valid extraction/replay, and audit the counterexample's dependencies without `sorryAx`. The whole-graph build, complete multivariate test stack, 86 SymPy cases, 19 GCD benchmark smoke checks, and CI passed. Independent Opus review findings were addressed and recorded on the PR.

The existing general checker, Gauss/content/PRS, and squarefree proof gaps remain. This clears the reported certificate blocker; it does not complete the tracker. No axioms or `sorry`s were added, and phase counters remain unchanged.

**Comment by kim-em** [comment]
A further squarefree contract is unsound at `af7b4d49f661a23debf82960bfff3c78435ff135`: differentiation accepts an independent `NatCast R` that is not constrained to agree with the coefficient ring. This is separate from the certificate-dictionary hole repaired by #10091.

`HexMvGcd/Squarefree.lean` defines `NatNoZero` using only `[Zero R] [NatCast R]`. Its condition says positive naturals cast to nonzero values, but imposes no compatibility with ring arithmetic. The squarefree functions and theorems also quantify over a separate `[NatCast R]`. `PerfectFrac Int` does not constrain this separate cast either.

Concrete counterexample over the ordinary, lawful integer ring:

- Let `NatCast Int` send every natural number to `1`. This satisfies the current `NatNoZero Int` hypothesis.
- For `f = (x + 1)²`, the executable derivative becomes `x + 2`. These inputs really are coprime: `f - x * (x + 2) = 1`, so this does not require a forged gcd certificate.
- `isSquarefree f` returns `true`, although `f` has the repeated nonconstant divisor `x + 1`.
- With the same valid `NatNoZero` witness, `radical f` returns `f`, and `sqfDecomp f` returns `f` at multiplicity `1`.

Consequently `isSquarefree_iff`, `radical_squarefree`, and `sqfDecomp_squarefree` cannot be proved with their current signatures. Ordinary canonical integer casts give the expected results; the problem is the universally quantified contract.

Verification: `lake build HexMvGcd.CastCounterexample` passes (379 jobs). The Boolean results below are executable `#guard` checks. The cast hypothesis, derivative identity, nonzero input, and failure of semantic squarefreeness are kernel-checked theorems; their axiom audits contain no `sorryAx`. No `native_decide`, axioms, or new proof placeholders are used.

The required SPEC correction is to bind the squarefree pipeline and `NatNoZero` to the natural-number cast supplied by the same coefficient-ring structure. Alternatively, an independently supplied cast needs an explicit coherence law everywhere it is used. The canonical-cast approach matches the operation discipline established by #10091. This should be corrected across the squarefree API, rather than adding isolated premises only to the failing theorems.

Following AGENTS.md's instruction to stop and report an unsound contract, I am stopping this proof attempt and leaving the tracker claimable for the corrected contract. No implementation PR is opened against the false signatures, and no phase counters advance.

Full reproducer (save as `HexMvGcd/CastCounterexample.lean`):

```lean
/-
Copyright (c) 2026 Lean FRO, LLC. All rights reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Kim Morrison
-/

module

public import HexMvGcd.Squarefree
public meta import HexMvGcd.Squarefree
import all HexMvGcd.Squarefree
import all HexMvGcd.Gcd
import all HexMvGcd.Normalize
import all HexMvPoly.Basic
import all HexMvPoly.Ring
import all HexMvPoly.Structural
import all HexMvPoly.Query

@[expose] public section

namespace Hex.MvPoly.CastCounterexample

abbrev P := MvPoly 1 Int Mono.lex

def repeated : P := (X 0 + 1) * (X 0 + 1)

@[instance_reducible] def badCast : NatCast Int := ⟨fun _ => 1⟩

theorem cast_nonzero : @NatNoZero Int inferInstance badCast := by
  apply @NatNoZero.mk Int _ badCast
  intro m hm
  change (1 : Int) ≠ 0
  decide

example :
    letI : NatCast Int := badCast
    Hex.LawfulGcdOps Int := by infer_instance

example :
    letI : NatCast Int := badCast
    Hex.LawfulBezoutOps Int := by infer_instance

example :
    letI : NatCast Int := badCast
    PerfectFrac Int := by infer_instance

#guard !isSquarefree repeated
#guard radical repeated == (X 0 + 1 : P)

theorem bad_derivative :
    letI : NatCast Int := badCast
    derivative 0 repeated = (X 0 + C 2 : P) := by
  decide +kernel

#guard
  letI : NatCast Int := badCast
  isSquarefree repeated

#guard
  letI : NatCast Int := badCast
  letI : NatNoZero Int := cast_nonzero
  radical repeated == repeated

#guard
  letI : NatCast Int := badCast
  letI : NatNoZero Int := cast_nonzero
  let factors := (sqfDecomp repeated).factors
  factors.length == 1 && factors.all (fun f => f.factor == repeated && f.multiplicity == 1)

theorem repeated_ne_zero : repeated ≠ 0 := by
  decide +kernel

theorem not_squarefree : ¬ Squarefree repeated := by
  intro h
  have hd : (X 0 + 1 : P) * (X 0 + 1) ∣ repeated :=
    ⟨1, by simp only [repeated, one_mul]⟩
  have hc := h.2 (X 0 + 1) hd
  have hn : ¬ IsConst (X 0 + 1 : P) := by
    change (X 0 + 1 : P).vars ≠ []
    decide +kernel
  exact hn hc

#print axioms cast_nonzero
#print axioms bad_derivative
#print axioms repeated_ne_zero
#print axioms not_squarefree

end Hex.MvPoly.CastCounterexample

```

**Comment by kim-em** [comment]
The squarefree cast counterexample is repaired in #10102. `NatNoZero` now refers to the coefficient ring’s own natural cast, and all squarefree differentiation uses that same cast. The public Yun/decomposition helpers also require characteristic zero. Caller-local casts cannot change decisions or multiplicities or supply a false characteristic-zero witness for F₃.

The SPECs and README now state this boundary. Regressions cover Int/Rat repeated factors, zero/constants, F₃ decisions, cast invariance, and rejection of direct positive-characteristic decomposition calls. The new kernel theorem dependency audits contain no `sorryAx`.

Validation: whole-graph build including HexManual, focused stack/conformance/kernel-probe targets, 86 SymPy cases with exact fixture comparison, 19 GCD benchmark replay checks, and structural/phase/release checks all passed. Fresh Claude Opus review was completed and its actionable findings addressed; final CI passed before merge.

This completes the reported cast-contract repair, not the general GCD proof obligations. HexMvGcd still has 17 existing literal `sorry` occurrences. This tracker remains open, with phase counters and release metadata unchanged.

**Comment by kim-em** [comment]
Proof work found a concrete missing premise in the published `Squarefree` signature. The predicate used `d * d` but declared only `[DecidableEq R]`, so that multiplication elaborated with the `BEq` synthesized from `DecidableEq`. The executable gcd/decomposition layer carries the caller's explicit `[BEq R] [LawfulBEq R]`. In `squarefree_primPart`, Lean therefore produced two distinct `MvPoly` multiplication instances for the semantic hypothesis and executable `primPart_mul`; they are not definitionally equal.

I am correcting the contract to give `Squarefree` the same explicit `[BEq R] [LawfulBEq R]` parameters as the executable layer and documenting that requirement in the SPEC. This does not weaken the predicate: `LawfulBEq` makes the equality implementations extensionally agree, and the mathematical formula remains unchanged.

**Comment by kim-em** [comment]
A second squarefree contract defect is confirmed in the current executable on branch `issue-10082`: `sqfDecomp_prod` is false for arbitrary admitted monomial orders.

Concrete kernel computation over `P := MvPoly 3 Int Mono.grlex`:

```lean
def x : P := X 0
def y : P := X 1
def z : P := X 2
def c : P := y - z ^ 2
def p : P := polyNormalize (c * (x + 1))
def replay : P :=
  let d := sqfDecomp p
  d.factors.foldl
    (fun acc factor => acc * factor.factor ^ factor.multiplicity)
    (C d.content)

#eval replay == p -- false
```

The computed input terms have coefficients `[-1, 1, -1, 1]`; replay has `[1, -1, 1, -1]`, so replay is exactly `-p`. The cause is the order boundary in recursive content descent. `contentIn i Mono.lex q` is normalized in the lower `Mono.lex` order. After embedding into the caller's `Mono.grlex` order, its leading coefficient can have the opposite normalization unit. Consequently `primPartIn` can be non-normalized in the caller order. `yunLoop` eventually reaches the unit `-1` and drops it when `polyIsUnit b`, losing the sign.

I am correcting the executable contract, rather than weakening the theorem: after the recursive content split, normalize the main-variable primitive part with `sqfPrimitiveSplit`, feed its normalized polynomial to Yun, and multiply the extracted unit into `SqfDecomp.content`. This preserves the named-variable Yun route and exact reconstruction for every supported monomial order. A permanent graded-order regression will check exact replay.
